US09387204B2
Step-II: tert-butyl 4-({(2Z)-2-[amino(pyridin-2-yl) methylidene]hydrazinyl}carbonyl)piperidine-1-carboxylate
To as solution of 1-(tert-butoxycarbonyl) piperidine-4-carboxylic acid 37 g (167 mM) in dichloromethane (300 ml) is added carbonyl diimidazole (1 eq.) in small portion over a period of 30 min. pyridine-2-carbohydrazonamide is then added to reaction mixture and stirred at room temperature for 3 hrs. Dichloromethane is evaporated and reaction mass is then stirred in water for 30 min. solid precipitated is filtered and dried to afford the desired compound.

reactant | 1-(tert-butoxycarbonyl) piperidine-4-carboxylic acid | 167 mM, 37 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | carbonyl diimidazole | 1 eq. | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | pyridine-2-carbohydrazonamide | N1=C(C=CC=C1)C(N)=NN | C6H8N4
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | tert-butyl 4-({(2Z)-2-[amino(pyridin-2-yl) methylidene]hydrazinyl}carbonyl)piperidine-1-carboxylate | N\C(=N/NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C)\C1=NC=CC=C1 | C17H25N5O3
